US08012966B2
4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(2-diethylamino-ethyl)-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one
The title compound was prepared under the same conditions as described in Example 123 with 5-(2-diethylamino-ethyl)-3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]-pyrimidin-6-one as starting materials to give 4-(3-chloro-4-fluoro-phenylamino)-5-[5-(2-diethylamino-ethyl)-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (43 mg, 48.5%) as a yellow solid.

reactant | 5-(2-diethylamino-ethyl)-3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C(F)(F)F)C=O)=O)CC | C15H20F3N3O2
reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]-pyrimidin-6-one | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
product | 4-(3-chloro-4-fluoro-phenylamino)-5-[5-(2-diethylamino-ethyl)-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 43 mg, 48.5% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC2=C(C=1C(N(CCC1N2)CCN(CC)CC)=O)C(F)(F)F)=O | C27H26ClF4N7O2
